US08076491B2
5-phenyl-1,3,4-thiadiazol-2-amine (600 mg, 3.3 mmol), cyano acetic acid (300 mg, 3.6 mmol), and EDC-HCl (861 mg, 4.5 mmol) were stirred in acetonitrile (15 mL) at room temperature for 2 hours. The mixture was diluted with aqueous 1N HCl and the aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with ethyl acetate/hexanes (1/9) to afford 2-cyano-N-(5-phenyl-1,3,4-thiadiazol-2-yl)acetamide as a white solid which was used without further purification.

reactant | 5-phenyl-1,3,4-thiadiazol-2-amine | 3.3 mmol, 600 mg | C1(=CC=CC=C1)C1=NN=C(S1)N | C8H7N3S
reactant | cyano acetic acid | 3.6 mmol, 300 mg | C(#N)CC(=O)O | C3H3NO2
reactant | EDC-HCl | 4.5 mmol, 861 mg | CCN=C=NCCCN(C)C.Cl
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | HCl | 1N | Cl | ClH
product | 2-cyano-N-(5-phenyl-1,3,4-thiadiazol-2-yl)acetamide | C(#N)CC(=O)NC=1SC(=NN1)C1=CC=CC=C1 | C11H8N4OS
